US09029388B2
F) 5-Methyl-9-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-9H-imidazo[1′,2′:1,2]imidazo[4,5-b]pyridine
To a solution of 4-(5-methyl-9H-imidazo[1′,2′:1,2]imidazo[4,5-b]pyridin-9-yl)phenol (238 mg) in DMA (4 ml) was added potassium tert-butoxide (112 mg) at room temperature. After stirring for 10 min, 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (211 mg) was added, and the obtained mixture was stirred at 150° C. for 1 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (THF) and recrystallized from hexane/THF to give the title compound (229 mg).

reactant | 4-(5-methyl-9H-imidazo[1′,2′:1,2]imidazo[4,5-b]pyridin-9-yl)phenol | 238 mg | CC1=C2C(=NC=C1)N(C=1N2C=CN1)C1=CC=C(C=C1)O | C15H12N4O
reactant | potassium tert-butoxide | 112 mg | CC(C)([O-])C.[K+]
reactant | 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine | 211 mg | CN1C(=NC=2C1=NC=CC2)S(=O)(=O)C | C8H9N3O2S
reactant | water | O | H2O
solvent | DMA | 4 ml | CC(=O)N(C)C | C4H9NO
product | 5-Methyl-9-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-9H-imidazo[1′,2′:1,2]imidazo[4,5-b]pyridine | 229 mg | CC1=C2C(=NC=C1)N(C=1N2C=CN1)C1=CC=C(C=C1)OC1=NC=2C(=NC=CC2)N1C | C22H17N7O
